US09024032B2
To a mixture of 1-(3-bromo-phenyl)-5-hydroxy-2-hydroxymethyl-1H-pyridin-4-one and K2CO3 (5.17 g, 37.5 mmol) in 50 mL of DMF was added 2.35 g of PMBCl (15 mmol) dropwise, and the reaction mixture was stirred at 80° C. for 3 h. After cooling to room temperature, the mixture was poured into 200 mL of water and extracted with EtOAc (50 mL) three times. The combined organic layers were washed with water, brine, and dried over anhydrous MgSO4. Most of the volatiles were removed in vacuo and the resulting solid was collected and washed with EtOAc to obtain 1-(3-bromophenyl)-2-hydroxymethyl-5-(4-methoxy-benzyloxy)-1H-pyridin-4-one. 1H NMR (400 MHz, DMSO-d6): δ 7.75 (d, J=8.0 Hz, 2H), 7.49 (d, J=4.0 Hz, 2H), 7.46 (s, 1H), 7.31 (d, J=7.6 Hz, 2H), 6.92 (d, J=7.6 Hz, 2H), 6.32 (s, 1H), 5.46 (s, 1H), 4.86 (s, 2H), 3.74 (s, 3H). ESI (M+H)+ 415.9/417.9

reactant | 1-(3-bromo-phenyl)-5-hydroxy-2-hydroxymethyl-1H-pyridin-4-one | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)O)=O)CO | C12H10BrNO3
reactant | K2CO3 | 37.5 mmol, 5.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | PMBCl | 15 mmol, 2.35 g | COC1=CC=C(C=C1)CCl | C8H9ClO
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(3-bromophenyl)-2-hydroxymethyl-5-(4-methoxy-benzyloxy)-1H-pyridin-4-one | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)CO | C20H18BrNO4
